US04670441
1.4 1-Methyl-3-ethyl-5-[4-chloro-2-(4-chlorophenoxy)phenylcarbamoyl]-2 -thiobarbituric acid
3.4 g (20 mmol) of 1-methyl-3-ethyl-2-thiobarbituric acid are suspended in 80 ml of xylene. 1 g (8 mmol) of triethylamine is added, the mixture is heated to 40° C. and a solution of 5.6 g (20 mmol) of 4-chloro-2-(4-chlorophenoxy)phenylisocyanate in 30 ml of xylene is added dropwise with stirring at 40° C. The mixture is subsequently stirred for 2 hours at 40° C. and then cooled. 50 ml of 2N HCl are added, the crystalline precipitate is isolated by filtration, washed with water and dried at 80° C., affording a product with a melting point of 250°-251° C.

reactant | 1-methyl-3-ethyl-2-thiobarbituric acid | 20 mmol, 3.4 g | CN1C(=S)N(C(=O)CC1=O)CC | C7H10N2O2S
reactant | triethylamine | 8 mmol, 1 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-(4-chlorophenoxy)phenylisocyanate | 20 mmol, 5.6 g | ClC1=CC(=C(C=C1)N=C=O)OC1=CC=C(C=C1)Cl | C13H7Cl2NO2
reactant | HCl | 2N, 50 ml | Cl | ClH
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Methyl-3-ethyl-5-[4-chloro-2-(4-chlorophenoxy)phenylcarbamoyl]-2 -thiobarbituric acid | CN1C(=S)N(C(=O)C(C1=O)C(NC1=C(C=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)=O)CC | C20H17Cl2N3O4S
